US06544990B2
N-(4-chlorobenzyl)-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-8-(pyridin-2-ylethynyl)-1,4-dihydroquinoline-3-carboxamide
A flame-dried flask under an atmosphere of nitrogen gas containing N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide (Preparation # 15) (0.28 g) is treated with copper (I) iodide (0.01 g), dichlorobis(triphenylphosphine)palladium (II) (0.03 g), dimethylformamide (DMF) (3 mL) and diethylamine (3 mL). The resulting stirring suspension is treated with 2-ethynylpyridine (0.1 mL). After stirring overnight, the suspension is concentrated under reduced pressure and then in vacuo. The residue is adsorbed onto silica gel and is flash column chromatographed on silica eluting with 2% to 6% methanol in dichloromethane. The product-containing fractions are combined and concentrated under reduced pressure. The resulting material is crystallized from a mixture of methanol:acetonitrile to afford the title compound (0.22 g) as a white solid.

reactant | N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide | 0.28 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)I)C)C=C1 | C23H23ClIN3O3
reactant | diethylamine | 3 mL | C(C)NCC | C4H11N
reactant | 2-ethynylpyridine | 0.1 mL | C(#C)C1=NC=CC=C1 | C7H5N
catalyst | copper (I) iodide | 0.01 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.03 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-(4-chlorobenzyl)-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-8-(pyridin-2-ylethynyl)-1,4-dihydroquinoline-3-carboxamide | 0.22 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)C#CC2=NC=CC=C2)C)C=C1 | C30H27ClN4O3
